US07229986B2
(E)-3-[2,3-Dihydro-1H-indol-5-yl]-N,N-dimethyl-2-propene-1-amine
A mixture of 3-[1-acetyl-2,3-dihydro-1H-indol-5-yl]-3-hydroxy-N,N-dimethyl-1-propanamine (3.3 g) obtained in 1) above and concd. hydrochloric acid (20 ml) was heated for 16 hours under reflux. The reaction solution was cooled to room temperature, then concentrated under reduced pressure, diluted with water, made basic with 2 N aqueous sodium hydroxide and extracted with ethyl acetate. The extract was washed with a saturated saline solution and dried over anhydrous magnesium sulfate, and the solvent was distilled away under reduced pressure, whereby the title compound (2.3 g) was obtained as oily matter.

reactant | 3-[1-acetyl-2,3-dihydro-1H-indol-5-yl]-3-hydroxy-N,N-dimethyl-1-propanamine | 3.3 g | C(C)(=O)N1CCC2=CC(=CC=C12)C(CCN(C)C)O | C15H22N2O2
solvent | hydrochloric acid | 20 ml | Cl | ClH
product | (E)-3-[2,3-Dihydro-1H-indol-5-yl]-N,N-dimethyl-2-propene-1-amine | N1CCC2=CC(=CC=C12)/C=C/CN(C)C | C13H18N2
